US05859009
3,3-Dimethyl-1,5-dioxaspiro[5.5]undec-9-ylamine
A solution of 20.0 g (0.1 mol) of 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-one in 250 ml of methanol which contained 38 g of ammonia was hydrogenated at 100° C. and a hydrogen pressure of 100 bar in the presence of 3 g of Raney nickel. The catalyst was filtered off and the solvent was stripped off in vacuo. The crude product was purified by means of a thin film evaporator (140° C./0.8 bar). This gave 16 g (80% of theory) of distillate which solidified upon standing.

reactant | 3,3-dimethyl-1,5-dioxaspiro[5.5]undecan-9-one | 0.1 mol, 20.0 g | CC1(COC2(OC1)CCC(CC2)=O)C | C11H18O3
reactant | ammonia | 38 g | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
catalyst | Raney nickel | 3 g | [Ni] | Ni
product | 3,3-Dimethyl-1,5-dioxaspiro[5.5]undec-9-ylamine | CC1(COC2(OC1)CCC(CC2)N)C | C11H21NO2
